### PR TITLE
feat: add BitVec.toFin_append

### PR DESCRIPTION
**Pull request by tobiasgrosser**

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -1759,6 +1759,23 @@ theorem append_def (x : BitVec v) (y : BitVec w) :
...
+    rw [Nat.pow_add]
+    exact Nat.le_mul_of_pos_left (2 ^ n) (Nat.two_pow_pos m)
+  apply Nat.or_lt_two_pow
+  · have := Nat.two_pow_pos n
+    rw [Nat.shiftLeft_eq, Nat.pow_add, Nat.mul_lt_mul_right]
+    <;> omega
+  · omega
+
+@[simp] theorem toFin_append (x : BitVec m) (y : BitVec n) :
+    (x ++ y).toFin = @Fin.mk (2^(m+n)) (x.toNat <<< n ||| y.toNat) (toNat_append_lt x y) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1775]:
```suggestion
@[simp] theorem toFin_append {x : BitVec m} {y : BitVec n} :
    (x ++ y).toFin = @Fin.mk (2^(m+n)) (x.toNat <<< n ||| y.toNat) (toNat_append_lt x y) := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -1759,6 +1759,23 @@ theorem append_def (x : BitVec v) (y : BitVec w) :
...
+    exact Nat.le_mul_of_pos_left (2 ^ n) (Nat.two_pow_pos m)
+  apply Nat.or_lt_two_pow
+  · have := Nat.two_pow_pos n
+    rw [Nat.shiftLeft_eq, Nat.pow_add, Nat.mul_lt_mul_right]
+    <;> omega
+  · omega
+
+@[simp] theorem toFin_append {x : BitVec m} {y : BitVec n} :
+    (x ++ y).toFin = @Fin.mk (2^(m+n)) (x.toNat <<< n ||| y.toNat) (toNat_append_lt x y) := by
+  ext
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:1776]: I think it's more general to have `h` be a proof, I have had situations where lean fails to unify correctly with the proposition when we fix the proof to be a a particular proof, even if we have proof irrelevance.

**Comment by tobiasgrosser** [comment]
I added a proof template for:

```lean
@[simp] theorem toInt_append {x : BitVec n} {y : BitVec m} :
    (x ++ y).toInt = if n == 0 then y.toInt else x.toInt * (2 ^ m) + y.toNat := by
```

but got a bit stuck in the actual proof. On the other hand, I find the toInt statement actually pretty neat.
